US07122679B2
Benzofuran was treated with butyllithium in ether followed by cyclopentanone. The resulting alcohol was dehydrated with toluenesulfonic acid in toluene to afford 2-cyclopenten-1-ylbenzofuran. Treatment with maleimide gave a cycloadduct which was aromatized by treatment with tetrachloroquinone. 1H NMR (DMSO-d6) δ 11.29 (s, 1H), 8.60 (d, 1H), 7.82 (d, 1H), 7.66 (t, 1H), 7.52 (t, 1H), 3.23 (m, 4H), 2.30 (quintet, 2H). MS m/e 276 (M−H)−.

reactant | Benzofuran | O1C=CC2=C1C=CC=C2 | C8H6O
reactant | butyllithium | C(CCC)[Li]
reactant | cyclopentanone | C1(CCCC1)=O | C5H8O
reactant | toluenesulfonic acid | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | ether | CCOCC | C4H10O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-cyclopenten-1-ylbenzofuran | C1(=CCCC1)C=1OC2=C(C1)C=CC=C2 | C13H12O
